US06498154B1
6-(3-Nitro-phenyl)-2,2,4,-trimethyl-1,4dihydro-2H-benzo[d][1,3]oxazine
Prepared from 1-(4-amino-3′-nitro-biphenyl-3-yl)-ethanol and acetone in the same fashion as that of Example 4. Yellow solid: mp 188-189° C.; Anal. Calc. For C17H18N2O30.35 H2O: C, 67.02; H, 6.19; N, 9.20. Found: C, 66.7; H, 5.89; N, 9.03.

reactant | 1-(4-amino-3′-nitro-biphenyl-3-yl)-ethanol | NC1=C(C=C(C=C1)C1=CC(=CC=C1)[N+](=O)[O-])C(C)O | C14H14N2O3
reactant | acetone | CC(=O)C | C3H6O
solvent | H2O | O | H2O
product | 6-(3-Nitro-phenyl)-2,2,4,-trimethyl-1,4dihydro-2H-benzo[d][1,3]oxazine | [N+](=O)([O-])C=1C=C(C=CC1)C1=CC2=C(NC(OC2C)(C)C)C=C1 | C17H18N2O3
